US09169245B2
3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-formylbenzoyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide (108 mg, 0.162 mmol) was dissolved in DCM (2 ml). Aniline (18.08 mg, 0.194 mmol) and acetic acid (9.26 μL, 0.162 mmol) were added, and the mixture was stirred at RT for 1 hour. Sodium triacetoxyborohydride (51.4 mg, 0.243 mmol) was added, and the mixture was stirred at RT overnight to achieve completion. The reaction mixture was diluted with DCM and extracted with water (2×). The organic phase was dried over Na2SO4 and concentrated under vacuum to give 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-((phenylamino)methyl)benzoyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide (120 mg, 0.161 mmol, 100% yield). The compound was used in the next step without any further purification.

reactant | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-formylbenzoyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide | 0.162 mmol, 108 mg | ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1C(C1=CC(=CC=C1)C=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C30H26Cl2F2N2O7S
reactant | Aniline | 0.194 mmol, 18.08 mg | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | 0.162 mmol, 9.26 μL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.243 mmol, 51.4 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-((phenylamino)methyl)benzoyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide | 0.161 mmol, 120 mg, 100% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1C(C1=CC(=CC=C1)CNC1=CC=CC=C1)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C36H33Cl2F2N3O6S
